US06201153B1
Synthesis of 1-(2′,5′-dimethoxyphenyl)-2-chloroethanone (Compound IV):
In a three-neck round bottom 2 liter flask, 60.0 g (0.434 mol) of 1,4-dimethoxybenzene is added. To the flask is added 300 mL dry dichloromethane to dissolve the solid. When the solution is clear, 63.7 g (0.477 mol) of anhydrous AlCl3 is added through a powder funnel and the funnel is washed with dichloromethane. The resulting solution is yellowish in color. This solution is stirred at room temperature for 5 minutes and 40.0 mL (0.50 mol) chloroacetylchloride in 5 mL dichloromethane is added dropwise (total addition time 1 hour 30 minutes) and is stirred vigorously at room temperature. The color of the solution became is orange-red and then like red wine. The solution is stirred for 4 hours after addition at room temperature and then poured in to a mixture of crushed ice and 126 mL conc. HCl and stirred for 20 minutes again. The organic phase is separated and the aqueous phase is extracted with CH2Cl2 (100 mL×3). Total dichloromethane fractions are combined and washed with H2O (100 mL×2), cold 10% aq. NaOH (200 mL×1) and H2O (100 mL×2) and dried over anhydrous sodium sulfate. The organic phase is evaporated under reduced pressure and the thick solution is cooled to room temperature yielding a yellow solid (59.0 g, yield 64%). The crude product is crystallized from methanol (m.p. 89-91° C.).

reactant | 1,4-dimethoxybenzene | 0.434 mol, 60.0 g | COC1=CC=C(C=C1)OC | C8H10O2
reactant | AlCl3 | 0.477 mol, 63.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | chloroacetylchloride | 0.50 mol, 40.0 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | 126 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 1-(2′,5′-dimethoxyphenyl)-2-chloroethanone | 59.0 g, yield 64% | COC1=C(C=C(C=C1)OC)C(CCl)=O | C10H11ClO3
